US07902220B2
b. 3-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-tert-butoxy-benzonitrile
To a solution of 3-bromo-2-tert-butoxy-benzonitrile-(30.73 g, 0.121 mol) in THF (100 mL) at 0° C. was added 2 M isopropylmagnesium chloride in THF (60 mL) dropwise. The reaction mixture was stirred for 1 h and then tetrakis(triphenylphosphine)palladium(0) (2.33 g, 0.002 mol) was added followed by trifluoro-methanesulfonic acid 8-benzyl-8-aza-bicyclo[3.2.1]oct-2-en -3-yl ester (35.00 g, 0.101 mol) in THF (23 mL). The reaction mixture was refluxed at 80° C. for 1 h, cooled to RT, washed with brine, and extracted with EtOAc (2×). The organic layer was dried over sodium sulfate and the solvent was evaporated to provide the title compound (39.2 g) which was used without further purification. (m/z): [M+H]+ calcd for C25H28N2O 373.22; found 373.2.

reactant | 3-bromo-2-tert-butoxy-benzonitrile- | 0.121 mol, 30.73 g | BrC=1C(=C(C#N)C=CC1)OC(C)(C)C | C11H12BrNO
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | trifluoro-methanesulfonic acid 8-benzyl-8-aza-bicyclo[3.2.1]oct-2-en -3-yl ester | 0.101 mol, 35.00 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)OS(=O)(=O)C(F)(F)F | C15H16F3NO3S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 23 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mol, 2.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-tert-butoxy-benzonitrile | 39.2 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)C=2C(=C(C#N)C=CC2)OC(C)(C)C | C25H28N2O
